US04954326
(2) (2-Methylpentane/cyclohexane) adsorption ratio
This ratio is expressed by the ratio of the weight of 2-methylpentane adsorbed on 1 g of zeolite to that of cyclohexane adsorbed on 1 g of zeolite under fixed conditions. The weights of the 2-methylpentane and cyclohexane adsorbed on zeolite are measured in the same way as in (1) above.

reactant | 2-methylpentane | CC(C)CCC | C6H14
reactant | cyclohexane | C1CCCCC1 | C6H12
solvent | n-hexane | CCCCCC | C6H14
product | 2-Methylpentane cyclohexane | CC(C)CCC.C1CCCCC1 | InChI=1S/C6H12.C6H14/c1-2-4-6-5-3-1;1-4-5-6(2)3/h1-6H2;6H,4-5H2,1-3H3
